US05374641
A 1.03 g portion of the thus obtained N-ethoxycarbonyl-N-[3-(4 -methoxymethyloxyphenyl)-3-(3-pyridyl)propyl]-4-chlorobenzenesulfonamide was dissolved in 25 ml of ethanol. After adding 1 ml of 6N hydrochloric acid, the solution was stirred at 60° C. for 1.5 hours. The resulting reaction mixture was concentrated under a reduced pressure, mixed with methylene chloride and then adjusted to alkalinity with saturated sodium hydrogencarbonate aqueous solution to separate organic layer. After extraction with chloroform, the extract was washed with saturated sodium chloride aqueous solution and dried using anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under a reduced pressure to obtain 0.80 g of N-ethoxycarbonyl-N-[3-(4-hydroxyphenyl)-3-(3-pyridyl)propyl]-4-chlorobenzene sulfonamide.

reactant | N-ethoxycarbonyl-N-[3-(4 -methoxymethyloxyphenyl)-3-(3-pyridyl)propyl]-4-chlorobenzenesulfonamide | C(C)OC(=O)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CCC(C=1C=NC=CC1)C1=CC=C(C=C1)OCOC | C25H27ClN2O6S
reactant | hydrochloric acid | 6N, 1 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-ethoxycarbonyl-N-[3-(4-hydroxyphenyl)-3-(3-pyridyl)propyl]-4-chlorobenzene sulfonamide | 0.80 g | C(C)OC(=O)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CCC(C=1C=NC=CC1)C1=CC=C(C=C1)O | C23H23ClN2O5S
